US07666879B2
A. 2-Bromomethyl-4-tert-butyl-6-chloro-pyridine
Dissolve 2-chloro-6-methyl-4-tert-butyl-pyridine (3.00 g, 16.33 mmol), N-bromosuccinimide (3.20 g, 17.97 mmol) and AIBN (0.03 g, 0.16 mmol) in carbon tetrachloride (60 mL) and heat to reflux. After heating for 6 hours, stir the contents overnight at ambient temperature. The contents are then concentrated to dryness and dry loaded onto a silica plug and eluted with dichloromethane to obtain the title compound (1.90 g, 7.23 mmol). MS(ES), m/z 263 (M+1).

reactant | 2-chloro-6-methyl-4-tert-butyl-pyridine | 16.33 mmol, 3.00 g | ClC1=NC(=CC(=C1)C(C)(C)C)C | C10H14ClN
reactant | N-bromosuccinimide | 17.97 mmol, 3.20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.16 mmol, 0.03 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-Bromomethyl-4-tert-butyl-6-chloro-pyridine | 7.23 mmol, 1.90 g | BrCC1=NC(=CC(=C1)C(C)(C)C)Cl | C10H13BrClN
